US04916122
The triphosphate can be prepared according to the procedure of Hoard et al., J. Am. Chem. Soc., 87(8), 1785-1788 (1965). For example, 3'-azido-2',3'-dideoxyuridine monophosphate is activated (by making a imidazolide, according to methods known to those skilled in the art) and treated with tributyl ammonium pyrophosphate in DMF. The reaction gives primarily 3'-azido-2',3'-dideoxyuridine triphosphate, with some unreacted monophosphate and some diphosphate. Purification by anion exchange chromatography of a DEAE column is followed by isolation of CS-87 triphosphate, e.g., as the tetrasodium salt.

reactant | triphosphate | [O-]P([O-])(=O)OP(=O)([O-])OP(=O)([O-])[O-]
reactant | 3'-azido-2',3'-dideoxyuridine monophosphate | P(=O)(O)(O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)N=[N+]=[N-] | C9H12N5O7P
reactant | imidazolide | [N-]1C=NC=C1
reactant | tributyl ammonium pyrophosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-].C(CCC)[NH+](CCCC)CCCC.C(CCC)[NH+](CCCC)CCCC.C(CCC)[NH+](CCCC)CCCC.C(CCC)[NH+](CCCC)CCCC
solvent | DMF | CN(C)C=O | C3H7NO
product | 3'-azido-2',3'-dideoxyuridine triphosphate | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)N=[N+]=[N-] | C9H14N5O13P3
